US04250123
25 parts by weight of hept-1-ene are added dropwise at 10° C. to a mixture of 42 parts by weight of 2-methyl-3-phenylpropyl chloride and 20 parts by weight of 96% strength sulfuric acid. Stirring is continued at room temperature for 14 hours. The crude product is dissolved in CHCl3, and the solution is washed with ice water, dried over Na2CO3 and distilled. 50 parts by weight of 3-(4-heptylphenyl)-2-methyl-propyl chloride are obtained; boiling point 114°-7° C./0.1 mm Hg, yield 75% (based on 2-methyl-3-phenylpropyl chloride).

reactant | hept-1-ene | C=CCCCCC | C7H14
reactant | 2-methyl-3-phenylpropyl chloride | CC(CCl)CC1=CC=CC=C1 | C10H13Cl
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 3-(4-heptylphenyl)-2-methyl-propyl chloride | yield 75% | C(CCCCCC)C1=CC=C(C=C1)CC(CCl)C | C17H27Cl
